US06156903
Synthesis of 1-(6-amino-3,5-difluoropyridine-2-yl)-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
To 2.5 g of ethyl 1-[6-(t-butylamino)-3,5-difluoropyridine-2-yl]-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate was added 10 ml of 12N hydrochloric acid, and the mixture was heated overnight under reflux. The reaction solution was allowed to stand, and the solid precipitate was collected by filtration and washed with ethanol and then, with diethylether to obtain 1.7 g of the title compound as a pale yellow powder.

reactant | ethyl 1-[6-(t-butylamino)-3,5-difluoropyridine-2-yl]-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.5 g | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC)F)F | C22H21F4N3O3
solvent | hydrochloric acid | 12N, 10 ml | Cl | ClH
product | 1-(6-amino-3,5-difluoropyridine-2-yl)-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.7 g | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O)F)F | C16H9F4N3O3
